US05432177
Step 1: 1-(tert-Butoxycarbonyl)-4-(1-methyl-5-indolyl)piperazine
Di-tert-butyldicarbonate (0.46 g, 2.11 mmol) was added to a solution of 1-(5-indolyl)piperazine (0.41 g, 2.04 mmol) in dimethylformamide/tetrahydrofuran (1:1; 20 ml) and the mixture stirred at room temperature overnight. The mixture was poured into water (200 ml) and extracted with ethyl acetate (2×100 ml). The extracts were washed with brine (100 ml), combined and dried (MgSO4). The residue after evaporation of the solvent was dissolved in tetrahydrofuran (5 ml). Sodium hydride (80% dispersion in oil; 0.068 g, 2.27 mmol) was added and the mixture stirred at room temperature for thirty minutes. Methyl iodide (0.14 ml, 2.25 mmol) was added, the reaction mixture was stirred for 90 minutes then poured into water (50 ml) and extracted with ethyl acetate (2×50 ml). The extracts were washed with brine (50 ml), combined and dried (MgSO4). Purification of the residue by flash chromatography, eluting with 1:3 then 1:2 ethyl acetate/petrol, gave the title compound (0.218 g, 34%) as a waxy solid; δH (CDCl3) 1.49 (9H, s, C(CH3)3), 3.08 (4H, t, J 4.8 Hz, 2×piperazinyl CH2), 3.62 (4H, t, J 4.8 Hz, 2×piperazinyl CH2), 3.76 (3H, s, N-CH3), 6.39 (1H, d, J 3.0 Hz, 3'-H), 7.00 (2H, m, 2-H, 5-H), and 7.24 (1H, d, J 9.1 Hz, 7-H).

reactant | Di-tert-butyldicarbonate | 2.11 mmol, 0.46 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(5-indolyl)piperazine | 2.04 mmol, 0.41 g | N1C=CC2=CC(=CC=C12)N1CCNCC1 | C12H15N3
reactant | Sodium hydride | 2.27 mmol, 0.068 g | [H-].[Na+]
reactant | Methyl iodide | 2.25 mmol, 0.14 ml | CI | CH3I
solvent | dimethylformamide tetrahydrofuran | 20 ml | CN(C=O)C.O1CCCC1
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 1-(tert-Butoxycarbonyl)-4-(1-methyl-5-indolyl)piperazine | 0.218 g, 34% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=C2C=CN(C2=CC1)C | C18H25N3O2
